US05902803
9-Cyano-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one can be obtained in the following way: 1 g of 1-[(4-cyano-1-oxoindan-2-yl)]imidazole-2-carboxamide is dissolved in 10 ml of acetic acid and the solution is brought to reflux for 22 hours. After cooling the reaction mixture, the suspension is filtered and washed with 5 ml of acetic acid, distilled water and ethyl ether. The solid is dried under reduced pressure (15 mm Hg; 2 kPa) at 30° C. and 0.4 g of 9-cyano-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one is thus obtained, which product melts at a temperature greater than 260° C. (Analysis C14H8N4O1.0.2H2O; % Calculated C: 67.74, H: 3.25, N: 22.57, O: 6.45; % Found C: 68.1, H: 3.3, N: 22.6, O: 6.7).

reactant | 1-[(4-cyano-1-oxoindan-2-yl)]imidazole-2-carboxamide | 1 g | C(#N)C1=C2CC(C(C2=CC=C1)=O)N1C(=NC=C1)C(=O)N | C14H10N4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 9-cyano-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 0.4 g | C(#N)C=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | C14H8N4O
